US07084155B2
(4-Formyl-benzyl)-(3-hydroxy-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester
A solution of (4-hydroxymethyl-benzyl)-(3-hydroxy-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester (0.99 g, 2.9 mmol) in CH2Cl2 (14 mL) was stirred at room temperature with a suspension of 85% MnO2 (3.0 g, 29 mmol) for 15 hours. The catalyst was removed by filtration, and the filtrate was concentrated to give orange crystals (818 mg, 83%). 1H NMR (CDCl3) □ 1.44 (s, 9H), 4.54 (s, 2H), 4.61 (s, 2H), 7.17 (dd, 1H, J=8.1, 4.5 Hz), 7.26 (dd, 1H, J=8.1, 1.5 Hz), 7.37 (d, 2H, J=8.1 Hz), 7.84 (d, 2H, J=8.1 Hz), 8.03 (dd, 1H, J=4.5, 1.2 Hz), 9.55 (s, 1H), 10.00 (s, 1H).

reactant | (4-hydroxymethyl-benzyl)-(3-hydroxy-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester | 2.9 mmol, 0.99 g | C(C)(C)(C)OC(N(CC1=NC=CC=C1O)CC1=CC=C(C=C1)CO)=O | C19H24N2O4
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 29 mmol, 3.0 g | O=[Mn]=O
product | (4-Formyl-benzyl)-(3-hydroxy-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester | 818 mg, 83% | C(C)(C)(C)OC(N(CC1=NC=CC=C1O)CC1=CC=C(C=C1)C=O)=O | C19H22N2O4
